US09102621B2
3-Chloro-2-[(3,3-difluorocyclobutyl)methoxy]pyridine
Sodium hydride (60% dispersion in mineral oil, 1.017 g, 70.6 mmol) was suspended in THF (30.0 mL) and the reaction was cooled to 0° C. under nitrogen with an ice bath. (3,3-Difluorocyclobutyl)methanol (Preparation 36, 2.95 g, 24.2 mmol) in THF (30 mL) was added dropwise to the mixture maintaining the temperature at 0° C. After stirring for 30 minutes, 2,3-dichloropyridine (3.25 g, 22.0 mmol) was added and the suspension was heated to reflux for 16 hours. An aqueous solution of HCl (1 M, 20 mL) was added and the reaction was extracted with EtOAc (2×100 mL). The combined organics were then dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (Biotage®, gradient of 0-50% EtOAc in heptane,) to afford the title compound (4.82 g, 85%).

reactant | Sodium hydride | 70.6 mmol, 1.017 g | [H-].[Na+]
reactant | (3,3-Difluorocyclobutyl)methanol | 24.2 mmol, 2.95 g | FC1(CC(C1)CO)F | C5H8F2O
reactant | 2,3-dichloropyridine | 22.0 mmol, 3.25 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | HCl | 1 M, 20 mL | Cl | ClH
solvent | THF | 30.0 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Chloro-2-[(3,3-difluorocyclobutyl)methoxy]pyridine | 4.82 g, 85% | ClC=1C(=NC=CC1)OCC1CC(C1)(F)F | C10H10ClF2NO
